US07618990B2
Step 4: 5-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]-1-methyl-1H-pyrrole-3-carbonitrile
To a solution of 5-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}-1-methyl-1H-pyrrole-3-carbonitrile (1.10 g, 3.98 mmol), prepared in the previous step, in dry tetrahydrofuran (10 mL) under nitrogen was added triethylamine (0.56 mL, 4 mmol), followed by triphosgene (1.18 g, 4 mmol). After 2 h, the mixture was partitioned between water and ethyl acetate. The organic layers were washed with water, dried (anhydrous sodium sulfate) and evaporated. The residue was then purified by silica gel column chromatography (ethyl acetate:hexanes, gradient elution) to afford the title compound (0.80 g, 66%) as an off white powder. HRMS: calcd for C14H14N4O2S [M+H]+, 303.09102; found (ESI, [M+H]+), 303.093, ANLC 99.4% at 210-370 nm, 8.6 min; 99.7% at 246 nm, 8.6 min, the Xterra® RP18 column, 3.5%, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 5-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}-1-methyl-1H-pyrrole-3-carbonitrile | 3.98 mmol, 1.10 g | OCC(C)(C)NC=1SC=C(N1)C1=CC(=CN1C)C#N | C13H16N4OS
reactant | triethylamine | 4 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 4 mmol, 1.18 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 0.80 g, 66% | CC1(N(C(OC1)=O)C=1SC=C(N1)C1=CC(=CN1C)C#N)C | C14H14N4O2S
